US06521643B1
To a solution of N,N′-bis(tert-butoxycarbonyl)-N″-(3-(3-methoxypyridin-2-yl)phenyl)guanidine (200 mg) in dichloromethane (2 ml) was added a solution of hydrogen chloride in 1,4-dioxane (4N, 4 ml), and the mixture was stirred at room temperature for 18 hours. The solvent was evaporated under reduced pressure. To the residue was added 5% ethanol in ethyl acetate (100 ml), and the precipitate was collected by filtration and dried under reduced pressure to give 3-(3-methoxypyridin-2-yl)phenylguanidine dihydrochloride (135 mg).

reactant | N,N′-bis(tert-butoxycarbonyl)-N″-(3-(3-methoxypyridin-2-yl)phenyl)guanidine | 200 mg | C(C)(C)(C)OC(=O)NC(=NC1=CC(=CC=C1)C1=NC=CC=C1OC)NC(=O)OC(C)(C)C | C23H30N4O5
reactant | hydrogen chloride | Cl | ClH
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | 1,4-dioxane | 4N, 4 ml | O1CCOCC1 | C4H8O2
product | 3-(3-methoxypyridin-2-yl)phenylguanidine dihydrochloride | 135 mg | Cl.Cl.COC=1C(=NC=CC1)C=1C=C(C=CC1)NC(=N)N | InChI=1S/C13H14N4O.2ClH/c1-18-11-6-3-7-16-12(11)9-4-2-5-10(8-9)17-13(14)15;;/h2-8H,1H3,(H4,14,15,17);2*1H
